.subckt AMP Vinp Vinn VDD VSS Vout
XM1 net2 Vinp net3 net3 sky130_fd_pr__nfet_01v8 L=0.375 W=24.53
XM2 net1 Vinn net3 net3 sky130_fd_pr__nfet_01v8 L=0.375 W=24.53
XM3 net4 vbn2 net2 net2 sky130_fd_pr__nfet_01v8 L=1.125 W=41.05
XM4 Vout vbn2 net1 net1 sky130_fd_pr__nfet_01v8 L=1.125 W=41.05
XM5 net4 vbp net6 net6 sky130_fd_pr__pfet_01v8_lvt L=1.0 W=10.89 m=10
XM6 Vout vbp net5 net5 sky130_fd_pr__pfet_01v8_lvt L=1.0 W=10.89 m=10
XM7 net6 net4 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1.5 W=17.78
XM8 net5 net4 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1.5 W=17.78
XM9 net3 vbn1 VSS VSS sky130_fd_pr__nfet_01v8 L=1.25 W=6.38 m=10
VBP vbp VSS dc=0.77
VBN2 vbn2 VSS dc=1.23
VBN1 vbn1 VSS dc=0.69
.ends AMP
